US08686137B2
7-Fluoro-3-methyl-2-(pyridin-2-yl)quinolin-4-amine
To a stirred solution of 7-fluoro-N-(4-methoxybenzyl)-3-methyl-2-(pyridin-2-yl)quinolin-4-amine (0.486 g, 1.30 mmol) in dichloromethane (13.0 mL) was added TFA (0.5 mL, 6.49 mmol). Stirring continued at 23° C. for 26 hours. After which, the reaction was concentrated in vacuo, dissolved in ethyl acetate and washed with a saturated solution of sodium bicarbonate. The combined organic layers were concentrated in vacuo and purified on silica gel eluting with 0-10% methanol in dichloromethane to give the desired product 7-fluoro-3-methyl-2-(pyridin-2-yl)quinolin-4-amine. Mass Spectrum (ESI) m/e=254.1 (M+1).

reactant | 7-fluoro-N-(4-methoxybenzyl)-3-methyl-2-(pyridin-2-yl)quinolin-4-amine | 1.30 mmol, 0.486 g | FC1=CC=C2C(=C(C(=NC2=C1)C1=NC=CC=C1)C)NCC1=CC=C(C=C1)OC | C23H20FN3O
reactant | TFA | 6.49 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 13.0 mL | ClCCl | CH2Cl2
product | 7-fluoro-3-methyl-2-(pyridin-2-yl)quinolin-4-amine | FC1=CC=C2C(=C(C(=NC2=C1)C1=NC=CC=C1)C)N | C15H12FN3
